US07199139B2
(S)-2-(4-t-Butylphenoxy)-3-[4-[2-[[1-[4-(2-pyridyl)phenyl]ethylidene]aminoxy]ethoxy]phenyl]propionic acid
The reaction was carried out according to Reference example 7 using 2-trimethylsilylethyl (S)-2-(4-t-butylphenoxy)-3-[4-[2-[[1-[4-(2-pyridyl)phenyl]ethylidene]aminoxy]ethoxy]phenyl]propionate (310 mg) obtained from Reference example 12 and a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran (1.7 ml). The resulting residue was purified by chromatography on a silica gel column (eluant; methylene chloride/methanol=24/1˜19/1), and then the obtained compound was filtered off and washed with isopropyl ether and hexane to afford the target compound (180 mg) as colorless crystals.

reactant | 2-trimethylsilylethyl (S)-2-(4-t-butylphenoxy)-3-[4-[2-[[1-[4-(2-pyridyl)phenyl]ethylidene]aminoxy]ethoxy]phenyl]propionate | 310 mg | C(C)(C)(C)C1=CC=C(O[C@H](C(=O)OCC[Si](C)(C)C)CC2=CC=C(C=C2)OCCON=C(C)C2=CC=C(C=C2)C2=NC=CC=C2)C=C1 | C39H48N2O5Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1.7 ml | O1CCCC1 | C4H8O
product | (S)-2-(4-t-Butylphenoxy)-3-[4-[2-[[1-[4-(2-pyridyl)phenyl]ethylidene]aminoxy]ethoxy]phenyl]propionic acid | 180 mg | C(C)(C)(C)C1=CC=C(O[C@H](C(=O)O)CC2=CC=C(C=C2)OCCON=C(C)C2=CC=C(C=C2)C2=NC=CC=C2)C=C1 | C34H36N2O5
